US04941985
Preparation of 2,6-ditert-butyl-4-nitrosophenol
In a 500 ml round flask equipped with a thermometer, stirrer and nitrogen inlet was added 2,6-ditertbutylphenol (50 g, 0.243 moles) and ethanol (95%, I00 ml). The solution was stirred until all of the phenol dissolved. The solution was then cooled to 0° C and concentrated hydrochloric acid (26.3 g, 0.267 moles) was slowly added. A solution of sodium nitrite (17.56 g, 0.254 moles) in water (75 ml) was then added dropwise so as to keep the temperature of the reaction between 0 °and 10° C. (1 hr). The solution became quite thick and more ethanol was added accordingly, for efficient stirring. After the addition was completed, the reaction mixture was stirred for 1 hr and it was then poured into a beaker of ice water (~5 L). The yellow green precipitate was filtered off washed, with water and air dried. The yield was 98 wt%. (210-213° C.).

reactant | 2,6-ditertbutylphenol | 0.243 moles, 50 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrochloric acid | 0.267 moles, 26.3 g | Cl | ClH
reactant | sodium nitrite | 0.254 moles, 17.56 g | N(=O)[O-].[Na+]
solvent | water | 75 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2,6-ditert-butyl-4-nitrosophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N=O)C(C)(C)C)O | C14H21NO2
